US07964607B2
6-{(3S,4S)-4-methyl-1-[(6-methylpyridin-3-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
Following the procedure for the preparation of 6-{(3S,4S)-4-methyl-1-[(2-methylpyrimidin-5-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one but substituting 6-methylnicotinaldehyde provided the title compound. 400 MHz 1H NMR (CD3OD) δ 8.38 (d, J=2.1 Hz, 1H), 7.99 (s, 1H), 7.77 (d, J=2.07 Hz, 1H), 7.75 (d, J=2.07 Hz, 1H), 4.94-4.83 (m, 1H), 4.09-4.05 (m, 2H), 3.78-3.57 (m, 4H), 3.31-3.28 (m, 1H), 3.11-3.06 (m, 1H), 3.01-2.91 (m, 2H), 2.72-2.65 (m, 1H), 2.50 (s, 3H), 2.33-2.23 (m, 3H), 1.90-1.86 (m, 2H), 1.14 (d, J=7.1 Hz, 3H). MS: (M+H m/z 409.2).

reactant | 6-{(3S,4S)-4-methyl-1-[(2-methylpyrimidin-5-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C[C@H]1[C@@H](CN(C1)CC=1C=NC(=NC1)C)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O | C21H27N7O2
reactant | 6-methylnicotinaldehyde | CC1=NC=C(C=O)C=C1 | C7H7NO
product | 6-{(3S,4S)-4-methyl-1-[(6-methylpyridin-3-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C[C@H]1[C@@H](CN(C1)CC=1C=NC(=CC1)C)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O | C22H28N6O2
